US06806274B1
1-(2,6-dichlorophenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-methylurea
6-Methoxy-4-methylamino-7-(N-methylpiperidin-4-ylmethoxy)quinazoline (0.195 g) was added to 2,6-dichlorophenyl isocyanate (0.3 g) under argon and the solids were mixed together using a spatula. The mixture was heated to 85° C. with gentle mixing for 40 minutes. The mixture was cooled to ambient temperature, dissolved in a mixture of chloroform (15 ml) and methanol (5 ml) and purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a 1% aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound (0.016 g); NMR Spectrum: (CDCl3) 1.5 (m, 2H), 1.98 (m, 5H), 2.3 (s, 3H), 2.91 (d, 2H), 3.6 (s, 3H), 4.02 (s, 3H), 4.03 (d, 2H), 7.1 (t, 1H), 7.28 (s, 2H), 7.37 (d, 2H), 8.61 (s, 1H), 8.96 (s, 1H); Mass Spectrum: M+H+ 504.

reactant | 6-Methoxy-4-methylamino-7-(N-methylpiperidin-4-ylmethoxy)quinazoline | 0.195 g | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)NC | C17H24N4O2
reactant | 2,6-dichlorophenyl isocyanate | 0.3 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 ml | CO | CH4O
product | 1-(2,6-dichlorophenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-methylurea | 0.016 g | ClC1=C(C(=CC=C1)Cl)NC(=O)N(C)C1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C24H27Cl2N5O3
